US04230710
2-(4-Acetylaminoanilino)-1,3,4,6,7,11b-hexahydro-2H-benzo[a]quinolizine (TR-3429)
A mixture of 1,3,4,6,7,11b-hexahydro-2-oxo-2H-benzo[a]quinolizine (8 g, 0.04 mole; prepared as described by Beke et al), 4-aminoacetanilide (6 g, 0.04 mole), a catalytic amount of p-toluenesulfonic acid (TsOH), 150 ml of toluene and 25 ml of dimethylformamide (DMF) was refluxed for 18 hours with the water produced being collected in a Dean-Stark trap. The solvent was removed in vacuo and the concentrate dissolved in 150 ml of methanol and cooled in an ice bath whereupon 8 g of NaBH4 was added in portions. At this point the mixture was stirred in the cold for 1 hour and at about 18° C. overnight. The solvent was removed in vacuo, the concentrate crystallized from acetone and petroleum ether and recrystallized from benzene and petroleum ether to yield 2 g of the desired product, m.p. 210°-3°.

reactant | 1,3,4,6,7,11b-hexahydro-2-oxo-2H-benzo[a]quinolizine | 0.04 mole, 8 g | O=C1CCN2CCC3=C(C2C1)C=CC=C3 | C13H15NO
reactant | 4-aminoacetanilide | 0.04 mole, 6 g | CC(=O)NC1=CC=C(C=C1)N | C8H10N2O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 2-(4-Acetylaminoanilino)-1,3,4,6,7,11b-hexahydro-2H-benzo[a]quinolizine | 2 g | C(C)(=O)NC1=CC=C(NC2CCN3CCC4=C(C3C2)C=CC=C4)C=C1 | C21H25N3O
